Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G2P1 at ___ presents with sudden onset abdominal pain and 
vomiting x 2. Pt reports waking from sleep with severe localized 
stabbing pain just above her umbilicus shortly followed by 2 
episodes of emesis that did not resolve her pain. She denies any 
radiation of her pain, aggravating/alleviating factors. She 
currently reports ___ pain and denies any present nausea. She 
denies fevers, chills, CP, SOB, heartburn, ctx, cramping, VB, 
LOF. She reports her last BM as last night and endorses flatus. 
She does report numerous sick contacts at the day care she works 
at.

While in triage, pt had an additional episode of emesis without 
nausea.

 
Past Medical History:
PNC:
___ ___ 
PNC labs:
B+ve, abs neg, RI, RPR NR, HepBsAg neg, HIV neg
ERA low risk, GC/Chlam neg, FFS done with no mention of LVOT to
be cleared???
Issues: short cervix and funneling s/p cerclage placement at 20
wk, on vaginal progesterone

OBHx:
G1 - 21 week loss following short cervix in ___
G2 current

GYNHx: remote h/o chlamydia, denies h/o abnormal pap, gyn
surgeries, other STIs

PMH: depression

PSH: surgery for urinary reflux in childhood

 
Social History:
H/o alcohol and heroin abuse last used in ___, denies any 
recent use.

 
Physical Exam:
Admission Exam:
VS 98.4 77 124/80 18
gen: well appearing, NAD
Abd: soft, gravid, localized tenderness above umbilicus that is
distractible, no fundal tenderness, no rebound or guarding.
Ext: no tenderness or edema

Discharge Exam:
AVSS
Gen: NAD, AOx3
Pulm: normal respiratory effort
CV:RRR
Abd: soft, non-tender, gravid, no rebound/guarding
Ext: wwp
 
Pertinent Results:
___ 06:28AM BLOOD WBC-13.6*# RBC-4.31 Hgb-12.9 Hct-36.2 
MCV-84 MCH-29.9 MCHC-35.7* RDW-13.4 Plt ___
___ 06:28AM BLOOD Neuts-77.9* Lymphs-12.7* Monos-3.9 
Eos-5.2* Baso-0.3
___ 06:28AM BLOOD Glucose-79 UreaN-8 Creat-0.5 Na-134 K-4.5 
Cl-103 HCO3-22 AnGap-14
___ 06:28AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.8
___ 08:55AM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:55AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 08:55AM URINE RBC-6* WBC-3 Bacteri-NONE Yeast-NONE 
Epi-<___ yo G2P0100 with hx of drug abuse and prior preterm delivery, 
with ___ cerclage in place who was admitted to antepartum 
on ___ with shortening cervix and preterm contractions. On ___, 
her cervix was 28mm and on ___, it was found to be 15mm long. 
Her cervix was closed on speculum exam. She was put on 
nifedipine which was stopped on ___ am. Patient received 
betamethosone and was beta complete. Patient refused Utox as she 
was unsure if her insurance would cover the cost. Per case 
manager, she was told that her insurance would cover cost for 
Utox but patient declined and wanted to do Utox at ___. She was 
discharged home in stable condition with outpatient follow-up to 
be scheduled.

 
Medications on Admission:
PNV, vaginal and IM progesterone

 
Discharge Medications:
1. Endometrin (proGESTerone micronized) 200 mg VG QHS 
2. Famotidine 20 mg PO BID 
3. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 29w6d
short cervix
abdominal pain

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the antepartum service for observation due 
to abdominal pain, nausea, and preterm contractions. Your pain 
improved while you were here and you were tolerating regular 
food. You had no evidence of preterm labor. Fetal testing was 
reassuring. You received a course of betamethasone for fetal 
lung maturity.

You may continue your usual activity. Please avoid strenuous 
exercise and maintain pelvic rest (nothing in the vagina except 
progesterone suppositories).

Stay hydrated. Continue taking Pepcid for heartburn/nausea.
 
Followup Instructions:
___